data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
732,794,[CH3:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][C-:19]([C:20]#[N:21])[C:22]#[N:23].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:19]([C:20]#[N:21])([C:22]#[N:23])[NH:18][C:15]2([C:13]([CH3:12])=[O:14])[C:16]#[N:17],water,298.15,34.302741338082946,-5.109002019622791
3545,4043,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([CH3:17])[C:18]#[N:19]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:16]([CH3:17])([C:18]#[N:19])[NH:15][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[CH3:14],water,298.15,5.8667622803483885,-29.12253300068438
2841,3157,[CH3:19][O:20][C:21](=[O:22])[C-:23]([O+:24]=[CH:25][C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:25]([C:26]([CH3:27])=[O:28])[O:24][C:23]2([C:21]([O:20][CH3:19])=[O:22])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,13.591351904914928,-61.96116053005766
947,1028,[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[C:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH:20]#[N+:21][CH-:22][C:23]([CH3:24])=[O:25]>>[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[C:6]1([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[C:13]2([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH:22]([C:23]([CH3:24])=[O:25])[N:21]=[CH:20]1,water,298.15,15.04194796452266,-43.91536774089259
2111,2344,[CH3:13][C:14](=[O:15])[N-:16][N+:17]([CH3:18])=[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([C:7]([CH3:8])=[O:9])[C:10]([CH3:11])=[O:12]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([C:7]([CH3:8])=[O:9])([C:10]([CH3:11])=[O:12])[C:19]([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)([c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[N:17]([CH3:18])[N:16]1[C:14]([CH3:13])=[O:15],water,298.15,22.73016401105952,19.615781839488648
4792,5471,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[NH+:17]=[C:18]([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[NH:17][C:18]2([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,27.01760814619173,3.4424759393466315
1755,1943,[CH3:16][NH:17][C:18](=[O:19])[C:20]#[N+:21][C-:22]([C:23]#[N:24])[C:25](=[O:26])[NH:27][CH3:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]([CH3:6])=[C:7]([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]([C:8](=[O:9])[NH:10][CH3:11])([C:12](=[O:13])[NH:14][CH3:15])[C:20]([C:18]([NH:17][CH3:16])=[O:19])=[N:21][C:22]1([C:23]#[N:24])[C:25](=[O:26])[NH:27][CH3:28],water,298.15,18.575295143353934,-31.5689620341844
1,1,[CH2:1]=[CH:2][CH3:3].[CH:4]#[N+:5][C-:6]([CH3:7])[C:8]#[N:9]>>[CH2:1]1[CH:2]([CH3:3])[C:6]([CH3:7])([C:8]#[N:9])[N:5]=[CH:4]1,water,298.15,15.155476944785311,-51.39868083364623
1429,1571,[CH3:19][C:20](=[O:21])[C:22]#[N+:23][CH-:24][C:25]([CH3:26])=[O:27].[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[C:22]([C:20]([CH3:19])=[O:21])=[N:23][CH:24]1[C:25]([CH3:26])=[O:27],water,298.15,27.2555960002292,-25.24365434140313
4726,5395,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:19]([C:20]([CH3:21])=[O:22])([C:23]([CH3:24])=[O:25])[N:17]([CH3:18])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,28.37387292222989,-16.428136402759307
1032,1125,[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2.[CH3:10][C:11]#[N+:12][N-:13][C:14](=[O:15])[NH:16][CH3:17]>>[Br:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[N:13]([C:14](=[O:15])[NH:16][CH3:17])[N:12]=[C:11]2[CH3:10],water,298.15,19.43207351911516,-50.679740412657786
1598,1767,[CH3:15][C:16](=[O:17])[CH-:18][NH+:19]=[C:20]([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:20]([C:21]#[N:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:19][CH:18]3[C:16]([CH3:15])=[O:17],water,298.15,18.729400557209328,-34.3217052921091
